Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / garlic / simvastatin / 
pravastatin / Zetia
 
Attending: ___.
 
Chief Complaint:
Difficulty Swallowing, Weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ old woman with a history of atrial
fibrillation on apixaban, HTN, depression, and dysphagia,
presenting  after an episode of choking sensation.

Last fall, the patient had an episode of choking on a cracker
requiring the Heimlich maneuver. Since that time, she has been
seen by multiple providers for choking sensation, dysphagia, and
hoarseness. Her evaluation has included laryngoscopy which was
unremarkable, a video swallow which showed trace penetration of
thin liquids without aspiration but distal esophageal narrowing,
and barium swallow showing esophageal dysmotility. 

She decided to present for emergency evaluation today after an
unprompted choking sensation during which she felt as if she
could not speak. She also has been having increasing frequency 
of
dry heaving, which has been treated with ondansetron by her PCP.
She has lost almost 20 lbs in the pst year. However, she reports
that she is able to swallow food and has continued to eat 3 full
meals a day.

In the ED, initial vital signs were T:97.7 HR:74 BP:157/89 RR:18
98% RA. Labs were notable for WBC 5.4, Hgb 15.6, Plt 160. K
elevated due to hemolysis, 4.1 on recheck. CT neck showed no
airway obstruction.

Upon arrival to the floor, the patient endorses the history
above. She is not currently having any choking sensation. She
denies any chest pain, dyspnea, abdominal pain, nausea, or
vomiting. 
 
Past Medical History:
HTN
Atrial fibrillation
Dysphagia
Depression 
 
Social History:
___
Family History:
Mother with breast cancer and hypertension. Father and brother
with CAD.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: T 97.9 BP 194/87 HR 83 RR 18 O2 sat 96   
GENERAL: Alert and interactive. In no acute distress. Appears
cachetic.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
NECK: No palpable masses. No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2.3/6
systolic murmur heard across the precordium.
LUNGS: Bilateral midfields with decreased air entry. No wheezes,
rhonchi or rales. No increased work of breathing.
BACK: No spinous process tenderness. No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill less than 2s. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.

DISCHARGE PHYSICAL EXAM
VITALS: 24 HR Data (last updated ___ @ 1500)
    Temp: 97.4 (Tm 98.1), BP: 150/82 (117-153/70-82), HR: 76 
(75-80), RR: 18, O2 sat: 97% (95-97), O2 delivery: Ra, Wt: 84.66 
lb/38.4 kg  
GENERAL: Cachectic woman lying in bed in NAD. Hoarse and mildly 
dysarthric.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection. MMM. +tongue fasciculations.
NECK: No palpable masses. No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. ___ 
systolic murmur heard across the precordium.
LUNGS: Bilateral midfields with decreased air entry. No wheezes, 
rhonchi or rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep 
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally.
SKIN: Warm. Cap refill less than 2s. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout upper and 
lower extremities. Normal sensation to light touch. Gait is 
normal. AOx3.

 
Pertinent Results:
ADMISSION LABS
===========================
___ 04:54PM BLOOD WBC-5.4 RBC-5.04 Hgb-15.6 Hct-46.4* 
MCV-92 MCH-31.0 MCHC-33.6 RDW-12.9 RDWSD-43.5 Plt ___
___ 04:54PM BLOOD Neuts-72.8* Lymphs-17.1* Monos-8.6 
Eos-0.6* Baso-0.7 Im ___ AbsNeut-3.91 AbsLymp-0.92* 
AbsMono-0.46 AbsEos-0.03* AbsBaso-0.04
___ 04:54PM BLOOD ___ PTT-34.5 ___
___ 04:54PM BLOOD Glucose-140* UreaN-21* Creat-0.9 Na-134* 
K-7.0* Cl-99 HCO3-25 AnGap-10
___ 04:54PM BLOOD ALT-32 AST-77* AlkPhos-48 TotBili-0.6
___ 04:54PM BLOOD Albumin-4.2

DISCHARGE LABS
===========================
___ 06:28AM BLOOD WBC-4.5 RBC-4.69 Hgb-14.4 Hct-44.4 MCV-95 
MCH-30.7 MCHC-32.4 RDW-12.7 RDWSD-43.4 Plt ___
___ 06:28AM BLOOD Glucose-104* UreaN-23* Creat-1.1 Na-140 
K-4.6 Cl-100 HCO3-27 AnGap-13
___ 06:28AM BLOOD Calcium-9.9 Phos-3.7 Mg-2.1
___ 06:33AM BLOOD ALT-23 AST-26 LD(LDH)-221 AlkPhos-52 
TotBili-0.7

MICRO
===========================
___ 6:00 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

IMAGING
===========================
___ CT NECK WITHOUT CONTRAST
1. No airway obstruction. 
2. Severe multilevel degenerative changes of the cervical spine. 


___ CXR
IMPRESSION:  
No acute intrathoracic abnormalities identified.  No definite 
intrathoracic lesion identified. 

___ EMG
IMPRESSION: 
Abnormal study. Together with the clinical history and physical 
exam, the 
electrophysiologic data are consistent with a generalized 
disorder of 
motor neurons or their axons (as in amyotrophic lateral 
sclerosis). 
  
Incidential note is made of likely median neuropathy at the 
right wrist, as in carpal tunnel syndrome, which was not fully 
explored given the focus of this study. 

___ VIDEO SWALLOW STUDY
1. No evidence of aspiration. 
2. Penetration with thin and nectar thick liquids. 
3. Increased pharyngeal residue compared to prior study dated ___. 

___ MRI C SPINE
1.  Study is moderately degraded by motion. 
2. Cord compression at C2-3, C3-4, C4-5 and C6-7 without cord 
signal 
abnormality or abnormal enhancement within limits of study, as 
described. 
3.  Multilevel cervical spondylosis as described, most 
pronounced at C4-5 and C5-6, where there is moderate to severe 
vertebral canal narrowing. 
4. C3-4, C4-5 and C6-7 moderate bilateral, and C5-6 severe right 
and moderate left neural foraminal narrowing. 
5. Please see concurrently obtained brain MRI for description of 
cranial 
structures. 
6. Question minimal nonspecific C3 through C7 bilateral 
paraspinal muscle 
edema versus artifact. 

___ MRI HEAD
WET READ:  
No acute infarct or intracranial hemorrhage. No abnormal 
enhancement. 

 
Brief Hospital Course:
PATIENT SUMMARY
====================
___ old woman with a history of atrial fibrillation on 
apixaban, HTN, depression, and dysphagia, admitted for workup of 
dysphagia, found to have new diagnosis of ALS.

TRANSITIONAL ISSUES
====================
#ALS
[] F/u new diagnosis of ALS: pt will call for appointment at 
next ___ clinic on ___. Discharged with script 
for riluzole 50mg BID.
[] Consider Palliative Care, Social Work consults.
[] F/u nutrition, weight. Encourage supplements per Nutrition 
eval: scandishake BID, magic cup daily, smoothie daily.

#CORD COMPRESSION
[] MRI C-spine demonstrated cord compression at C2-3, C3-4, C4-5 
and C6-7 without cord signal abnormality or abnormal 
enhancement. Per Neurology, appears chronic and not unusual for 
pt's age. No indication for urgent intervention, could consider 
further outpatient workup if pt's chronic neck pain is thought 
to be related to cervical cord compression.

ACUTE ISSUES
====================
#Amyotrophic lateral sclerosis
#Choking sensation
#Dysarthria
#Tongue fasciculations
___ year old woman with a several month history of progressive 
dysarthria, hoarseness, and to a lesser degree dysphagia. This 
is superimposed on weight loss in the past 6 months, at least 
partially stemming from significant anxiety surrounding food 
intake after an episode in ___ where she choked and required
the Heimlich maneuver. Prior outpatient workup included barium 
swallow demonstrating esophageal dysmotility. During this 
admission, SLP was consulted and video swallow study 
demonstrated significantly worsened swallow from last evaluation 
in ___. Neurology was consulted with concern for motor 
neuron disease given bulbar weakness and tongue fasciculations. 
Neuro exam notable for hypophonia, tongue fasciculations, 
wasting of thenar eminence and intrinsic hand muscles, 
fasciculations of the upper extremities, and diffuse 
hyperreflexia. Exam and EMG/NCS study consistent with ALS. MRI 
brain and C-spine without central pathology to explain her 
symptoms. New diagnosis of ALS was discussed with patient and 
family by Neuro attending Dr. ___. LFTs wnl, pt was 
discharged with script for riluzole 50mg BID and plan for follow 
up in ___ clinic.

#Weakness
#Severe malnutrition / weight loss
Patient with cachectic appearance and marked 20 pound weight 
loss over past year, despite reported adequate PO intake with 
Ensure supplements. Likely ___ ALS as above, perhaps some 
element of decreased intake secondary to fearing choking 
sensation. Per SLP evaluation, safe to continue regular diet 
with thin liquids with chin tuck pt instructed to select softer 
foods from the menu and take small bites/sips. Nutrition 
recommended supplements with scandishake BID, magic cup daily, 
smoothie daily, multivitamin with minerals. CXR without evidence 
of aspiration. The possibility of a feeding tube will be 
considered further in follow-up with neurology. 

CHRONIC ISSUES:
===============
# Afib
Continued home apixaban 5 BID.

# Depression
Continued home sertraline.

# Hypertension
Continued home carvedilol, lisinopril.

>30 minutes in patient care and coordination of discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron ODT 4 mg PO BID 
2. Lisinopril 2.5 mg PO BID 
3. Calcium Carbonate 750 mg PO BID 
4. CARVedilol 6.25 mg PO BID 
5. Apixaban 5 mg PO BID 
6. Omeprazole 20 mg PO DAILY 
7. Sertraline 12.5 mg PO DAILY 
8. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  riluzole 50 mg oral BID 
RX *riluzole 50 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
2.  Apixaban 5 mg PO BID  
3.  Calcium Carbonate 750 mg PO BID  
4.  CARVedilol 6.25 mg PO BID  
5.  Lisinopril 2.5 mg PO BID  
6.  Omeprazole 20 mg PO DAILY  
7.  Ondansetron ODT 4 mg PO BID  
8.  Sertraline 12.5 mg PO DAILY  
9.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Amyotrophic lateral sclerosis
#Dysphagia
#Dysarthria
#Tongue fasciculations
#Weakness
#Severe malnutrition / weight loss
#Hypertension
#Atrial fibrillation
#Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a privilege caring for you at ___. 

WHY WAS I IN THE HOSPITAL? 
- You were admitted to the hospital because you were losing 
weight and experiencing choking and coughing sensations.

WHAT HAPPENED TO ME IN THE HOSPITAL? 
- A CXR did not show evidence of pneumonia or aspiration.
- The Speech and Swallow team performed a bedside evaluation and 
video swallow study. They felt that your swallow was worse than 
during last evaluation in ___, and in order to prevent 
aspiration of food into the trachea it is important to tuck your 
chin while eating.
- The Neurology team evaluated you and recommended testing 
including an EMG and MRI. These tests showed that you have 
Amyotrophic Lateral Sclerosis (ALS).

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL? 
- Please start taking a new medication, riluzole, for ALS. 
Continue to take all your other medicines.
- Please call the ___ Neurology department at ___ on 
___ to make an ___ clinic appointment. The next ___ clinic 
will be on ___. 
- Please call your PCP ___ (___) to make a 
follow up appointment in the next ___ weeks.
- If you are having difficulty sleeping, you can try over the 
counter melatonin supplements at bedtime.

- Recommendations for safe swallowing:
1. Continue Regular diet with thin liquids cautiously, selecting
softer foods from the menu
2. Medications: Whole with applesauce
3. Aspiration Precautions:
     -Use a chin tuck with all food/liquid
     -Alternate bites/sips
     -Swallow 2x per bite
     -Small bites/sips

- Nutrition recommendations:
1. Oral supplements: scandishake BID, magic cup daily, smoothie
daily.
2. Daily multivitamin with minerals. 

We wish you the best! 

Sincerely, 
Your ___ Team 
 
Followup Instructions:
___